US08748462B2
Methyl 3-formyl-4-(trifluoromethylsulfonyloxy)benzoate (T37.2)
TEA (6.81 mL, 48.8 mmol), and N,N-dimethylpyridin-4-amine (0.298 g, 2.44 mmol) were added to a solution of methyl 3-formyl-4-hydroxybenzoate (T37.1) (commercially available from Sigma-Aldrich, St. Louis, Mo., USA) (4.40 g, 24.4 mmol) in DCM (26 mL). The resulting mixture was stirred at room temperature for 20 minutes and then N-phenyltrifluoromethanesulfonimide (9.60 g, 26.9 mmol) was added in one portion. The mixture was then stirred at room temperature for 30 minutes. After removing solvent, the residue was purified by flash chromatography (silica gel, 1:1 EtOAc/hexane) and gave T37.2, a colorless oil, in 99% yield (7.57 g).

reactant | methyl 3-formyl-4-hydroxybenzoate | C(=O)C=1C=C(C(=O)OC)C=CC1O | C9H8O4
reactant | N-phenyltrifluoromethanesulfonimide | 26.9 mmol, 9.60 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
catalyst | N,N-dimethylpyridin-4-amine | 2.44 mmol, 0.298 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DCM | 26 mL | C(Cl)Cl | CH2Cl2
product | Methyl 3-formyl-4-(trifluoromethylsulfonyloxy)benzoate | 99% yield | C(=O)C=1C=C(C(=O)OC)C=CC1OS(=O)(=O)C(F)(F)F | C10H7F3O6S
